** sch_path: /home/madvlsi/SKY130-AY38910/DAC/decoder_and_exp_dac.sch
**.subckt decoder_and_exp_dac GND GND VDD VDD A0 A1 A2 A3 Vout
*.iopin GND
*.iopin GND
*.iopin VDD
*.iopin VDD
*.ipin A0
*.ipin A1
*.ipin A2
*.ipin A3
*.opin Vout
x1 A3 A2 A0 A1 net1 net2 net3 net4 net5 net6 net7 net8 net9 net10 net11 net12 net13 net14 net15 net16 VDD GND decoder
x2 net8 net2 net3 net4 net5 net6 net7 net1 net9 net10 net11 net12 net13 net14 net15 net16 VDD GND Vout exp_DAC
**.ends

* expanding   symbol:  decoder.sym # of pins=22
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/decoder.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/decoder.sch
.subckt decoder A3 A2 A0 A1 MUX0 MUX1 MUX2 MUX3 MUX4 MUX5 MUX6 MUX7 MUX8 MUX9 MUX10 MUX11 MUX12 MUX13 MUX14 MUX15 VP VN
*.iopin MUX0
*.iopin MUX1
*.iopin MUX2
*.iopin MUX3
*.iopin MUX4
*.iopin MUX5
*.iopin MUX6
*.iopin MUX7
*.iopin MUX8
*.iopin MUX9
*.iopin MUX10
*.iopin MUX11
*.iopin MUX12
*.iopin MUX13
*.iopin MUX14
*.iopin MUX15
*.ipin A0
*.ipin A1
*.ipin A2
*.ipin A3
*.iopin VP
*.iopin VN
x8 A3 A2 A1 A0 MUX15 VP VN AND_4
x4 A3 A2 A1 net1 MUX14 VP VN AND_4
x5 A3 A2 net2 A0 MUX13 VP VN AND_4
x6 A3 A2 net2 net1 MUX12 VP VN AND_4
x7 A3 net3 A1 A0 MUX11 VP VN AND_4
x9 A3 net3 A1 net1 MUX10 VP VN AND_4
x10 A3 net3 net2 A0 MUX9 VP VN AND_4
x11 A3 net3 net2 net1 MUX8 VP VN AND_4
x12 net4 A2 A1 A0 MUX7 VP VN AND_4
x13 net4 A2 A1 net1 MUX6 VP VN AND_4
x14 net4 A2 net2 A0 MUX5 VP VN AND_4
x15 net4 A2 net2 net1 MUX4 VP VN AND_4
x16 net4 net3 A1 A0 MUX3 VP VN AND_4
x17 net4 net3 A1 net1 MUX2 VP VN AND_4
x18 net4 net3 net2 A0 MUX1 VP VN AND_4
x19 net4 net3 net2 net1 MUX0 VP VN AND_4
X3 A3 net4 VP VN inverter
X2 A2 net3 VP VN inverter
X1 A1 net2 VP VN inverter
X20 A0 net1 VP VN inverter
.ends


* expanding   symbol:  exp_DAC.sym # of pins=19
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/exp_DAC.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/exp_DAC.sch
.subckt exp_DAC MUX7 MUX1 MUX2 MUX3 MUX4 MUX5 MUX6 MUX0 MUX8 MUX9 MUX10 MUX11 MUX12 MUX13 MUX14 MUX15 VDD GND Vout
*.iopin GND
*.iopin MUX0
*.iopin MUX1
*.iopin MUX2
*.iopin MUX3
*.iopin MUX4
*.iopin MUX5
*.iopin MUX6
*.iopin MUX7
*.iopin MUX8
*.iopin MUX9
*.iopin MUX10
*.iopin MUX11
*.iopin MUX12
*.iopin MUX13
*.iopin MUX14
*.iopin MUX15
*.iopin VDD
*.iopin Vout
XM1 net13 MUX0 net14 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net13 MUX1 net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net13 MUX2 net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net13 MUX3 net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net13 MUX4 net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net13 MUX5 net5 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net13 MUX6 net6 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net13 MUX7 net7 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 net13 MUX8 net8 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 net13 MUX9 net9 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 net13 MUX10 net10 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 net13 MUX11 net11 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM13 net13 MUX12 net12 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM14 net13 MUX13 N13 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 net13 MUX14 N14 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM16 net13 MUX15 N15 GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR19 Vout net13 sky130_fd_pr__res_generic_po W=1 L=1000 m=1
XR20 N15 VDD sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR21 N14 N15 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR14 N13 N14 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR9 net12 N13 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR10 net11 net12 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR11 net10 net11 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR12 net9 net10 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR13 net8 net9 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR6 net7 net8 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR7 net6 net7 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR8 net5 net6 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR2 net4 net5 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR3 net3 net4 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR4 net2 net3 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR5 net1 net2 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR1 net14 net1 sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR15 GND net14 sky130_fd_pr__res_generic_po W=0.5 L=0.15 m=1
.ends


* expanding   symbol:  AND_4.sym # of pins=7
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/AND_4.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/AND_4.sch
.subckt AND_4 A B C D Y VP VN
*.ipin A
*.ipin B
*.opin Y
*.iopin VP
*.iopin VN
*.ipin C
*.ipin D
x0 B A net1 VP VN AND
x1 net2 net1 Y VP VN AND
x3 C D net2 VP VN AND
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/inverter.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/inverter.sch
.subckt inverter A Y VP VN
*.ipin A
*.opin Y
*.iopin VN
*.iopin VP
XM2 Y A VN VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 Y A VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  AND.sym # of pins=5
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/AND.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/AND.sch
.subckt AND A B Y VP VN
*.ipin A
*.ipin B
*.opin Y
*.iopin VP
*.iopin VN
x1 A B net1 VP VN NAND
X2 net1 Y VP VN inverter
.ends


* expanding   symbol:  NAND.sym # of pins=5
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/NAND.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/NAND.sch
.subckt NAND A B Y VP VN
*.ipin A
*.ipin B
*.opin Y
*.iopin VP
*.iopin VN
XM2 Y A net1 VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
XM11 Y A VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM1 Y B VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 B VN VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
.ends

.GLOBAL GND
.end
